US06855722B2
g) 3-{5-[2-(2-Methyl-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)-ethyl]-indol-1-yl}-propionic acid methyl ester
3-{5-[2-(2-Methyl-[1,8]naphthyridin-3-yl)-ethyl]-indol-1-yl}-acrylic acid methyl ester (230 mg, 6.1 mmol) was stirred in methanol (5 mL) under a hydrogen atmosphere in the presence of 10% palladium on carbon (10% w/w) (20 mg) for 3 days. After removal of solvent, the crude product was purified by flash chromatography on silica gel with methylene chloride/methanol (95/5) to give the title product (14 mg, 6% yield). 1H NMR (CDCl3) δ 7.40 (1H), 7.33 (1H), 7.23 (1H), 7.10 (1H), 7.00 (d, 1H), 6.65 (br, 1H), 6.45 (1H), 4.45 (t, 2H), 3.67 (s, 3H), 3.40 (br, 2H), 2.85 (4H), 2.30 (s, 3H), 2.70 (m, 2H), 1.90 (m, 2H). Mass Spectrum (LCMS, ESI) calculated for C23H28N3O2 378.2 (M+H); found 378.3.

reactant | 3-{5-[2-(2-Methyl-[1,8]naphthyridin-3-yl)-ethyl]-indol-1-yl}-acrylic acid methyl ester | 6.1 mmol, 230 mg | COC(C=CN1C=CC2=CC(=CC=C12)CCC=1C(=NC2=NC=CC=C2C1)C)=O | C23H21N3O2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | 3-{5-[2-(2-Methyl-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)-ethyl]-indol-1-yl}-propionic acid methyl ester | 14 mg, 6% yield | COC(CCN1C=CC2=CC(=CC=C12)CCC=1C(=NC=2NCCCC2C1)C)=O | C23H27N3O2
